US05739132
in 30 ml of carbon disulfide was suspended 1.60 g of anhydrous aluminum chloride, and to the suspension were added under ice cooling 580 mg of dimethyl succinic anhydride and then 790 mg of 2-(1,3-isoindolinedion-2-yl)indane. The mixture was stirred at 0° C. to room temperature for 3 hours and then refluxed under heating for 4 hours. The reaction mixture was poured into ice water, and hydrochloric acid was added thereto. The mixture was extracted with dichloromethane-tetrahydrofuran (3:1), the extract was dried, and then the solvent was removed. The resulting crystals were washed with ethyl acetate and dried to obtain 580 mg of 2-(1,3-isoindolinedion-2-yl)-5-(3-carboxy-3,3-dimethylpropionyl)indane.

reactant | aluminum chloride | 1.60 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | dimethyl succinic anhydride | CC1C(=O)OC(C1C)=O | C6H8O3
reactant | 2-(1,3-isoindolinedion-2-yl)indane | 790 mg | C1(N(C(C2=CC=CC=C12)=O)C1CC2=CC=CC=C2C1)=O | C17H13NO2
reactant | hydrochloric acid | Cl | ClH
reactant | carbon disulfide | 30 ml | C(=S)=S | CS2
product | 2-(1,3-isoindolinedion-2-yl)-5-(3-carboxy-3,3-dimethylpropionyl)indane | 580 mg | C1(N(C(C2=CC=CC=C12)=O)C1CC2=CC=C(C=C2C1)C(CC(C)(C)C(=O)O)=O)=O | C23H21NO5
